US05155114
A mixture of 3-(3-oxo-2,3-dihydropyridazin-6-yl)-2-phenylpyrazolo[1,5-a]pyridine (0.43 g), methyl acrylate (1.29 g), 40% methanolic trimethylbenzylammonium hydroxide (0.4 ml) and methanol (2 ml) in chloroform (8 ml) was refluxed for 40 minutes and then evaporated in vacuo. To the residue were added methylene chloride (30 ml) and water (30 ml), and the organic layer was separated, dried over magnesium sulfate and evaporated in vacuo. The crystalline residue was recrystallized from a mixture of ethyl acetate and diethyl ether to give 3-[2-(2-methoxycarbonylethyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine (0.37 g).

reactant | 3-(3-oxo-2,3-dihydropyridazin-6-yl)-2-phenylpyrazolo[1,5-a]pyridine | 0.43 g | O=C1NN=C(C=C1)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C17H12N4O
reactant | methyl acrylate | 1.29 g | C(C=C)(=O)OC | C4H6O2
reactant | trimethylbenzylammonium hydroxide | 0.4 ml | [OH-].C[N+](CC1=CC=CC=C1)(C)C
reactant | methanol | 2 ml | CO | CH4O
solvent | chloroform | 8 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-[2-(2-methoxycarbonylethyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine | 0.37 g | COC(=O)CCN1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C21H18N4O3
